.subckt COMB1 A0 B0 Cin C1

.include TSMC_180nm.txt
.include NOT_SUB.sub
.include AND2.sub
.include AND3.sub
.include AND4.sub
.include AND5.sub
.include XOR.sub
.include OR.sub

.param LAMBDA = 0.18u
.param width_N = {10*LAMBDA}
.param width_P = {2.5*width_N}

vdd vdd gnd 2.0V

xG1 A0 B0 P0 XOR
xG2 A0 B0 G0 AND2

xG3 P0 Cin x1 AND2

xG4 G0 x1 C1 OR

.ends