.subckt COMB2 A0 B0 Cin A1 B1 C2

.include TSMC_180nm.txt
.include NOT_SUB.sub
.include AND2.sub
.include AND3.sub
.include AND4.sub
.include AND5.sub
.include XOR.sub
.include OR.sub

.param LAMBDA = 0.18u
.param width_N = {10*LAMBDA}
.param width_P = {2.5*width_N}

vdd vdd gnd 2.0V

xG1 A0 B0 P0 XOR
xG2 A0 B0 G0 AND2

xG3 A1 B1 P1 XOR
xG4 A1 B1 G1 AND2

xG5 Cin P0 P1 x1 AND3
xG6 G0 P1 x2 AND2

xG7 x2 G1 x3 OR

xG8 x1 x3 C2 OR

.ends